US05998463
EXAMPLE 10 5-Benzoyl-1-ethyl-2-oxo-2,3-dihydro-1H-indole-3-carboxylic acid (3-phenylcarbamoyl-phenyl)-amide.
Prepared as in Example 1, Step A, from 5-benzoyl-1-ethyl-2-oxo-2,3-dihydro-1H-indole-3-carboxylic acid ethyl ester (U.S. Pat. No. 4,686,224) and 3-amino-N-phenyl-benzamide. Purified by trituration in ethyl acetate/hexanes. mp 129-135° C.

reactant | 5-benzoyl-1-ethyl-2-oxo-2,3-dihydro-1H-indole-3-carboxylic acid ethyl ester | C(C)OC(=O)C1C(N(C2=CC=C(C=C12)C(C1=CC=CC=C1)=O)CC)=O | C20H19NO4
reactant | 3-amino-N-phenyl-benzamide | NC=1C=C(C(=O)NC2=CC=CC=C2)C=CC1 | C13H12N2O
product | 5-Benzoyl-1-ethyl-2-oxo-2,3-dihydro-1H-indole-3-carboxylic acid (3-phenylcarbamoyl-phenyl)-amide | C1(=CC=CC=C1)NC(=O)C=1C=C(C=CC1)NC(=O)C1C(N(C2=CC=C(C=C12)C(C1=CC=CC=C1)=O)CC)=O | C31H25N3O4
